Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: CARDIOTHORACIC
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Abdominal pain, breast pain
 
Major Surgical or Invasive Procedure:
1.  Coronary bypass grafting x3 with left internal mammary
    artery to left anterior descending artery, and reverse
    saphenous vein graft to the left posterior lateral
    branch artery, and the lower pole of the obtuse marginal
    artery.

2.  Mitral valve repair with a 28 ___ annuloplasty
    ring with closure of anterior A3 cleft.

 
History of Present Illness:
Ms. ___ is a ___ year old woman with a history of diabetes 
mellitus type II, hyperlipidemia, hypertension, and extensive 
smoking history. She also has a self-reported history of two 
prior myocardial infarctions which were medically managed. She 
also has a history of recurrent GI bleeds requiring transfusion 
and recurrent syncope complicated by traumatic subarchnoid 
hemorrhage in ___. She presented to ___ 
on ___ with a two day history of generalized malaise, 
body aches, nausea, and onset of severe pain under both breasts 
and epigastric region radiating to her neck/jaw. She rule in for 
non-ST elevation myocardial infarctin. Upon admission to 
___ she was hypotensive with a hematocrit 
of 22. She was volume resuscitated and transfused PRBCs for a 
presumed GI bleed. She was also noted to have congestive heart 
failure with BNP >11,000. She was seen by neurology
and cleared for ASA but not heparin due to possible GI bleed, 
according to the record. She was transferred to ___ for 
ongoing evaluation and management. 
She was aggressively diuresed and transfused PRBCs for acute 
blood loss anemia. 
Cardiac catheterization demonstrated severe three-vessel disease 
including a 90% left main stenosis. An IABP was placed and she 
was admitted to the CCU for further care.  
 
Past Medical History:
Coronary Artery Disease
Depression
Diabetes Mellitus Type II
Duodenal AVM on EGD/capsule in ___, normal endoscopy in ___
Gastroesophageal Reflux Disease
GI Bleed
HYperlipidemia
Hypertension
Hypothyroidism
Myocardial Infarction 
 
Social History:
___
Family History:
Unknown.
 
Physical Exam:
ADMISSION EXAM:
================
VITALS: T 97.9, HR 100, BP 106/59, RR 39, SpO2 91% 6L NC
GENERAL: Alert, oriented, no acute distress  
HEENT: Sclera anicteric 
NECK: b/l soft swelling at the ankle of the jaw 
LUNGS: Diffuse rhonchi on anterior chest auscultation with 
decreased breath sounds diffusely on posterior fields, mild 
expiratory wheezes  
CV: Regular rate and rhythm, normal S1 S2, no murmurs, rubs, 
gallops  
ABD: soft, non-tender, non-distended, bowel sounds present, no 
rebound tenderness or guarding
EXT: Moderately cool extremities without mottling, pulses 
palpable  
NEURO: Moving all extremities with purpose, PERRL, alert and 
interactive, patient refused further exam  
ACCESS: PIVs (2 x 20g)

DISCHARGE EXAM:
VS: T: 98.5  HR: 63 SR  BP: 105/60  RR: 18 Sats: 92% 2L
Weight: 82.4 Kg,  preop 78.9
General: ___ year-old female in NAD
Card: RRR, normal S1, S2 no murmur
Resp: decreased breath sounds otherwise clear
GI: benign
Extr: warm 1+ edema.  
Wound: sternal clean dry intact.  stable.  Right lower extremity 
vasvoview site clean dry intact.  ecchymotic.
Neuro: awake, alert. pleasant today
 
Pertinent Results:
ADMISSION LABS:
================
___ WBC-13.6* RBC-3.01* Hgb-8.6* Hct-28.9* MCV-96 MCH-28.6 
MCHC-29.8* RDW-16.1* RDWSD-55.0* Plt ___
___ Neuts-83.8* Lymphs-9.3* Monos-5.4 Eos-0.1* Baso-0.5 Im 
___ AbsNeut-11.41* AbsLymp-1.26 AbsMono-0.74 AbsEos-0.02* 
AbsBaso-0.07
___ ___ PTT-23.8* ___
___ Glucose-207* UreaN-26* Creat-1.8* Na-137 K-4.5 Cl-105 
HCO3-12* 
___ ALT-108* AST-238* AlkPhos-183* TotBili-1.0
___ Lipase-39
___ CK-MB-11* cTropnT-0.41*
___ Albumin-3.6 Calcium-8.0* Phos-5.7* Mg-2.0
___ Lactate-4.6*

DISCHARGE LABS:
___ WBC-7.0 RBC-2.53* Hgb-7.7* Hct-23.4* MCV-93 MCH-30.4 
MCHC-32.9 RDW-15.2 RDWSD-50.4* Plt ___
___ Glucose-75 UreaN-35* Creat-1.8* Na-135 K-3.8 Cl-96 
HCO3-29 
___ Glucose-102* UreaN-41* Creat-1.8* Na-135 K-4.4 Cl-97 
HCO3-29

MICROBIOLOGY:
==============
___: Urine cultures - NEG
___:  blood cultures - NEG

IMAGING:
=========
CXR (___):
FINDINGS:    
There is moderate, diffuse interstitial abnormality consistent 
with pulmonary edema. There is no large pleural effusion or 
pneumothorax. Heart size is normal. No mediastinal or hilar 
abnormality. Osseous structures are demineralized, however 
grossly intact.   
IMPRESSION:    
Moderate pulmonary edema without large pleural effusions. In the 
appropriate clinical setting, pneumonia could have a similar 
appearance. 

TTE (___):
The left atrial volume index is mildly increased. No atrial 
septal defect is seen by 2D or color Doppler. The estimated 
right atrial pressure is ___ mmHg. There is mild symmetric left 
ventricular hypertrophy with normal cavity size. There is 
moderate regional left ventricular systolic dysfunction with 
hypokinesis of the mid to distal septum, and inferior wall, the 
distal anterior wall and apex, and the entire inferolateral 
wall. The remaining segments contract normally (LVEF = 35 %). 
[Intrinsic left ventricular systolic function is likely more 
depressed given the severity of valvular regurgitation.] Tissue 
Doppler imaging suggests an increased left ventricular filling 
pressure (PCWP>18mmHg). Right ventricular chamber size and free 
wall motion are normal. The diameters of aorta at the sinus, 
ascending and arch levels are normal. The aortic valve leaflets 
are mildly thickened (?#). There is no aortic valve stenosis. No 
aortic regurgitation is seen. The mitral valve leaflets are 
mildly thickened. Severe (4+) mitral regurgitation is seen. The 
tricuspid regurgitation jet is eccentric and may be 
underestimated. There is moderate pulmonary artery systolic 
hypertension. There is an anterior space which most likely 
represents a prominent fat pad. 
IMPRESSION: Suboptimal image quality. Moderate regional left 
ventricular systolic dysfunction suggestive of multivessel CAD. 
Severe mitral regurgitation. At least mild to moderate tricuspid 
regurgitation. Moderate pulmonary hypertension.

Cardiac Catheterization ___
Dominance: Right
LMCA: heavily calcified; ostial 90% eccentric LMCA stenosis.
LAD: heavily calcified; 50% mid LAD stenosis. There were robust 
septal
collaterals to the distal RCA.
LCX: heavily calcified; AV groove CX was subtotal or totally 
occluded after OM1. The CX appeared occluded again after the 
branching OM2. There was likely another occlusion in the 
proximal portion of OM2.
RCA: heavily calcified; proximal 50% stenosis at the high ___ RV 
branch. The mid RCA had serial 80% stenoses prior to a mid 
vessel recanalized total occlusion. The distal RCA and the RPDA 
filled via left-to-right and RV/AM collaterals. The RPDA was 
fractionated when filled via right-to-right collaterals, 
consistent with serial high grade lesions.

Chest CT ___
1. Moderate calcification of the aortic annulus and mild 
calcification of the aortic valve. 
2. Moderate bilateral left greater than right non hemorrhagic 
pleural 
effusions with almost complete collapse of the left lower lobe. 
3. Extensive atherosclerotic disease involving the coronary 
arteries, great vessels, and major branches of the abdominal 
aorta. 
4. Moderate emphysema. 
5. Mediastinal lymphadenopathy measuring up to 1.1 cm in the 
prevascular 
station, nonspecific. 

Head CT ___
1. Slightly prominent hyperdense nodule identified in the left 
parotid gland, partially evaluated in this exam, correlation 
with parotid gland ultrasound is recommended, probably 
consistent with an intraparotid lymph node, however other 
entities cannot be completely excluded. 
2. No acute intracranial process such as infarction or 
hemorrhage. 
3. Periventricular white matter hypodensities left greater than 
right are 
nonspecific but suggest small vessel ischemic disease. 
4. Bilateral V4 vertebral artery atherosclerotic calcifications. 

  
RECOMMENDATION(S):  Slightly hyperdense nodule in the left 
parotid gland as described above, partially evaluated in this 
exam, correlation with parotid gland ultrasound is recommended. 

Carotid Ultrasound ___
1.  Moderate heterogeneous plaque involving the left internal 
carotid artery with resultant elevated velocities (up to 215 
centimeters/second) and 60-69% stenosis. 
2.  Antegrade left vertebral flow.  The right vertebral artery 
was not 
visualized. 

Transesophageal Echocardiogram, Intraoperative ___
Conclusions   
PRE-BYPASS: 
The left atrium is dilated. A left-to-right shunt is present 
across the interatrial septum at rest (PFO). Left ventricular 
wall thicknesses are normal. The left ventricular cavity size is 
top normal/borderline dilated. There is mild-to-moderate 
regional left ventricular systolic dysfunction (EF 35-40%) with 
hypokinesis of the basal and mid inferior and inferolateral 
walls. The right ventricular cavity is within normal limits with 
normal free wall function. There are simple atheroma in the 
aortic arch. There are complex (>4mm) atheroma in the descending 
thoracic aorta. There is a IABP seen in the descending aorta 
approximately 9 cm distal to the subclavian artery. The aortic 
valve leaflets (3) are mildly thickened. There is no aortic 
valve stenosis. The mitral valve leaflets are mildly thickened. 
Moderate to severe (3+) central mitral regurgitation is seen. 
There is mild (1+) tricuspid regurgitation. There is a small 
left pleural effusion and perihepatic fluid visualized. 

POST Bypass: 
The patient is in an atrially-paced rhythm and receiving a 
phenylephrine infusion. An epinephrine infusion (0.03 
mcg/kg/min) is initiated over the course of the post-bypass 
exam.
Left ventricular function is reduced compared to pre-bypass, 
with an estimated EF of ___. The inferior wall is now 
dyskinetic. The anterior and anterolateral walls appear mildly 
hypokinetic compared to pre-bypass.
Right ventricular function remains preserved.
There is an annuloplasty ring in the mitral position. There is 
mild residual mitral regurgitation. Peak gradient across the 
valve is 6 mmHg; mean gradient is 2 mmHg.
The IABP remains approximately 9 cm distal to the left 
subclavian artery.
The left pleural effusion is no longer present.
The aorta is intact after decannulation.
.
PA/LAT CXR ___:
In comparison with the study of ___, the monitoring and 
support devices have been removed except for the right IJ 
catheter.  No evidence of pneumothorax.  Indistinctness of 
pulmonary vessels again suggests elevated pulmonary venous 
pressure.  Retrocardiac opacification is consistent with 
substantial volume loss in the left lower lobe.  Small bilateral 
pleural effusions. 
.
HEAD CT W/O CONTRAST ___:  
1. No evidence of intracranial hemorrhage or large vascular 
territory 
infarction. 
2. No evidence of fracture. 

 

 
Brief Hospital Course:
Ms. ___ is a ___ woman with a past medical history of 
CAD s/p prior NSTEMIs, GI bleeding/AVMs, and recent SAH who was 
admitted for  ___ yo F PMH with h/o SAH, CAD c/b NSTEMI, HTN, DM2, 
GI bleeding/AVMs, initially presented to CHA complaining of body 
aches, especially under the breast radiating to the mouth and 
jaw. She had nausea with 2 episodes of dry heaves. She has also 
had a dry cough and increased urinary frequency for several 
days. 

MICU Course (___)

# Hypotension:
# Leukocytosis: With WBC elevation, c/f septic shock, with most 
likely sources urine (UA abnormal and pt with urinary frequency) 
vs Pulmonary (cough, hypoxia, wheezes on exam). With recent 
hospital admissions will treat with broad spectrum ABX for UTI 
and HCAP. Differential also includes cardiogenic as patient pw 
ST depressions and elevated trop with relatively cool (though 
not cold) extremities on exam; as well as GI bleed though not 
having increased stool output and stool is dark brown, likely 
does not explain her level of hypotension. Given IV vancomycin 
and cefepime (day ___. In the morning with rising troponin 
and TTE that shows severe mitral regurgitation hypotension most 
likely a cardiac cause.

# NSTEMI type 1 vs type 2: In setting of hypotension/anemia was 
initially thought to be most likely demand ischemia, however as 
above cannot definitively rule out ACS with cardiogenic shock. 
In the ED, she was given full dose ASA and admitted to ICU. TIMI 
score 4. EKGs with dynamic changes notable for elevation in AVR 
and diffuse depressions most prominently across V2-V6. She had a 
recent TTE from OSH about 1 month prior to admission, which 
showed mild MR with some possible ___ but overall preserved 
LVEF. Patient was started on arrival to the MICU with heparin 
gtt per recommendations from cardiology. She was also given 
atorvastatin 80mg PO daily. TTE this admission was concerning 
for ischemic changes given worsening MR and more notable ___ and 
LVEF of 35%. As such, patient was transferred to the CCU team 
after urgent cardiac catheterization, which showed severe ostial 
LMCA and 3 vessel coronary artery disease with chronic total 
occlusions of the RCA and LCX. Mild pulmonary hypertension. Mild 
left ventricular diastolic dysfunction and moderate elevation of 
PCW after diuresis for clinically diagnosed diastolic heart 
failure in the setting of acutely diagnosed systolic heart 
failure. Successful insertion of 8 ___ 30 cc IABP via the 
right femoral artery given high risk CAD.

# Anemia: 
# possible GI bleed: Patient received 2 units of pRBCs. Trending 
was Patient s/p 2U pRBCs. Had home-occult positive rectal exam 
by GI. Patient was placed on IV PPI BID. The GI team was 
following along the patients course. CBC was followed and it 
increased post transfusion from 6.8 at OSH to 9.6.

# ___: Baseline 1.5, was 2.0 earlier in the day at CHA down to 
1.8 at ___ after IVF. Elevated Cr and granular casts c/f 
pre-renal ___, in the setting hypotension. Improving and close 
to baseline. 

# Transaminitis: C/f shock liver as LFTs were WNL in ED at 
___ just this afternoon, and now has significant elevation 
of LFTs. Low suspicion for cholestatic picture as bili not 
elevated and patient had negative lipase.
 
# Metabolic acidosis: Most likely lactic acidosis in combination 
with renal failure. Lactate decreased form 4.6 to 2.3 with 
fluids.

# Wheezing: On home flovent and Spiriva, though no record of 
diagnosed pulmonary disease. In the MICU duonebs and home 
bronchodilators were given.

CCU PREOPERATIVE COURSE ___ - ___
===============================
#NSTEMI: Likely ischemic/Type I NSTEMI given newly depressed 
LVEF and new severe MR with ongoing elevations of cardiac 
biomarkers, now complicated by acute decompensated HFrEF. No 
evidence of GIB to suggest alternative demand ischemia at this 
point. LHC on ___ showing severe L main disease and 3VD with 
IABP placement for mechanical support. Trop/Mb peaked during her 
stay with normalization of her lactate. Patient was continued on 
ASA 81 mg, Atorvastatin, and heparin gtt. Plavix was held as she 
was being worked up for CABG. In light of her history of recent 
SAH (___) and GI bleeding, patient was evaluated and cleared 
by GI and Neurosurgery for CABG intervention. Patient underwent 
CABG on ___ and transferred to Cardiac Surgery.
 
#Acute hypoxemic respiratory failure
#Acute decompensated HFrEF: Likely secondary to acute ischemic 
cardiomyopathy with newly depressed LVEF. CXR with evidence of 
pulmonary edema with elevated JVP. Patient was diuresed 
successfully with PRN Lasix boluses. Decision to start beta 
blocker and/or afterload reduction was deferred until post-CABG 

#Acute on chronic anemia: Unclear etiology given recent EGD with 
no evidence of bleed. Patient also without bloody stools but 
received 2 U RBCS during her stay. Patient was evaluated by GI 
and given lack of evidence of active bleeding, endoscopic 
procedure was not warranted at this time

#Acute on CKD: 1.3 baseline, initially uptrending due to 
cardiorenal syndrome given volume overloaded and worsening Cr 
with IVF and pRBCs. Cr was 2.4 up from 1.8 on admission but had 
improved to 1.4 prior to CVICU transfer with diuresis as above 

#Transaminitis: Likely elevated in the setting of shock liver 
from hypotension, downtrending with improvement in hemodynamics

===============  
CHRONIC ISSUES  
===============  
# Depression: continue citalopram
# Insomnia: continue trazadone 50mg qHS
# GERD: currently on IV PPI, transition to PO when able
# Recent smoking history: continue nicotine patch 
# Hypothyroidism: continue levothyroxine 100mcg daily

TRANSITIONAL ISSUES
===================
-CT A/P with complex ovarian cyst (PCP not mentioned to patient) 
new since ___. DO NOT MENTION YET TO PATIENT
-Slightly hyperdense nodule in the left parotid gland as 
described above, partially evaluated in this exam, correlation 
with parotid gland ultrasound is recommended. 

POSTOPERATIVE COURSE (___)
=====================================
The patient was brought to the Operating Room on ___ where 
she underwent 
Mitral valve repair (28mm ring) with closure of anterior A3 
cleft) and CABGx3(lima-LAD, svg-RCA, svg-OM). She came out on 
significant inotropic and vasopressor support and a lactic acid 
of 3.9 which subsequently decreased after albumin bolus and 
decreasing the Epinephrine gtt. She required significant fluid 
resuscitation post op until POD2 when she was started on a Lasix 
gtt and given intermittent doses of Diuril. IABP was removed on 
arrival from OR due to migration of the catheter. She had brief 
hypotension after removal but improved with increased 
Neosynephrine gtt for support, which was later weaned down for 
SBP goal > 100. Required multiple blood transfusions during her 
ICU course for Hct's as low as 21. After one unit ___ for 
Hct of 23, she was weaned from Neosynephrine gtt. Chest tubes 
removed on POD2 without issue. Tolerated beta blocker start and 
pacing wires removed on ___. Creatinine peaked at 2.4 on 
___ pre-op and now ___ while on Lasix gtt. Pt remained 
intubated due to significant fluid overload, and when attempted 
to wean vent while on Precedex, she became very agitated. 
Started on Propofol and kept comfortable with Ultram and PRN 
fentanyl. She went into a rapid afib on ___ requiring 
albumin for hypotension and amiodarone gtt for the afib. She 
converted quickly out of the afib and was transitioned to po 
amio on ___.  She has yet not required Coumadin.  CXR on 
___ demonstrated significant improvement of fluid overload. 
She tolerated CPAP on vent and was out of bed by lift to a 
chair.  She was extubated on ___ and was later transferred 
to the floor with nebulizers.  She had mild delirium but no 
focal deficits.  She developed hyponatremia to low of 126 which 
has normalized without fluid restriction to 135 at the time of 
discharge.  Her Prevena sternal dressing was removed on ___ 
and her sternum was healing well.  Her RLE vein harvest incision 
is ecchymotic but healing well.  She continues with aggressive 
diuresis.  On ___, she attempted to get up alone and had 
unwitnessed fall. Her head CT showed no acute abnormality other 
than 1.2 cm thick left posterior parietal scalp hematoma without 
underlying fracture. On ___, she fell again after attempting to 
get up on her own (again unwitnessed.) Her repeat head CT was 
unchanged. She continued to diurese, was transitioned to PO 
Lasix and her O2 weaned to 3L NC.  On ___ she was awake, 
alert, oriented and pleasant.  Not attempting to get out of bed 
on her own.  She self removed her Foley and is incontinent of 
urine.

She was evaluated by the physical therapy service for assistance 
with strength and mobility.  By the time of discharge on POD 9 
the patient was ambulating with assistance, with poor balance 
and prone to falling (uses a walker at home,) her wounds were 
healing and pain was controlled with oral analgesics.  The 
patient was ___ and Rehab in good 
condition with appropriate follow up instructions.  Her 
anticipated rehab length of stay is less than 30 days.  She will 
need PCP follow up for complex ovarian cyst (new since ___ 
and slightly hyperdense nodule in the left parotid gland as 
well. 
 

 
Medications on Admission:
1. Tiotropium Bromide 1 CAP IH DAILY 
2. Atorvastatin 40 mg PO QPM 
3. melatonin 1 mg oral QHS 
4. Calcium 600 with Vitamin D3 (calcium carbonate-vitamin D3) 
600 mg(1,500mg) -400 unit oral Q24H 
5. Fluticasone Propionate 110mcg 2 PUFF IH BID 
6. TraZODone 50 mg PO QHS 
7. Omeprazole 40 mg PO DAILY 
8. Nicotine Patch 21 mg TD DAILY 
9. Levothyroxine Sodium 100 mcg PO DAILY 
10. Ferrous Sulfate 325 mg PO DAILY 
11. Citalopram 20 mg PO DAILY 
12. Metoprolol Succinate XL 12.5 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q6H:PRN pain or temperature >38.0  
2.  Albuterol Inhaler ___ PUFF IH Q4H:PRN sob/wheezing   
3.  Amiodarone 200 mg PO DAILY Duration: 1 Month 
x 1 month then 200 mg daily x 1 month then as directed by 
cardiologist  
4.  Aspirin EC 81 mg PO DAILY  
5.  Benzonatate 100 mg PO TID  
6.  Bisacodyl ___AILY:PRN constipation  
7.  Furosemide 40 mg PO BID 
weights ___: 82.4 Kg
Adjust as needed  
8.  Magnesium Oxide 400 mg PO DAILY  
9.  Metoprolol Tartrate 25 mg PO Q8H  
10.  Ondansetron 4 mg IV Q8H:PRN nausea  
11.  Atorvastatin 40 mg PO QPM  
12.  Calcium 600 with Vitamin D3 (calcium carbonate-vitamin D3) 
600 mg(1,500mg) -400 unit oral Q24H  
13.  Citalopram 20 mg PO DAILY  
14.  Ferrous Sulfate 325 mg PO DAILY  
15.  Fluticasone Propionate 110mcg 2 PUFF IH BID  
16.  Levothyroxine Sodium 100 mcg PO DAILY  
17.  melatonin 1 mg oral QHS  
18.  Omeprazole 40 mg PO DAILY  
19.  Tiotropium Bromide 1 CAP IH DAILY  
20.  TraZODone 50 mg PO QHS  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
___ Diagnosis:
Coronary Artery Disease s/p revascularization
Mitral Regurgitation s/p MV repair
Non-ST Elevation Myocardial Infarction with preoperative 
Intra-Aortic Balloon Pump support
Acute Blood Loss Anemia 
Fall

Depression
Diabetes Mellitus Type II
Duodenal AVM on EGD/capsule in ___, normal endoscopy in ___
Gastroesophageal Reflux Disease
GI Bleed
Hyperlipidemia
Hypertension
Hypothyroidism
Myocardial Infarction 

 
Discharge Condition:
Alert and oriented x3 nonfocal
Ambulating, gait steady
Lungs: decreased bilateral bases
Sternal pain managed with oral analgesics
Sternal Incision - healing well, no erythema or drainage
Right Leg Vein Harvest Incision -  healing well, +ecchymoses but 
no erythema or drainage
Edema - 1+ BLE

 
Discharge Instructions:
1). Shower daily including washing incisions gently with mild 
soap, no baths or swimming, and look at your incisions
2). NO lotions, cream, powder, or ointments to incisions
3). Daily weight: keep a log. Continue furosemide twice daily 
and adjust as needed. ___ weight 82.4 Kg pre-op 78.9
4). No lifting more than 10 pounds for 10 weeks
5). Please wear bra to reduce pulling on incision, avoid rubbing 
on lower edge

**Please call cardiac surgery office with any questions or 
concerns ___. Answering service will contact on call 
person during off hours**

 
Followup Instructions:
___